US09403833B2
4-Amino-2-(2-fluorophenyl)-1,5-dimethyl-1H-pyrazol-3(2H)-one
2-(2-Fluorophenyl)-1,5-dimethyl-1H-pyrazol-3(2H)-one To a solution of 2-(2-fluorophenyl)-5-methyl-1H-pyrazol-3(2H)-one (500 g, 2602 mmol) in THF (2500 ml) heated to 58° C. was added iodomethane (163 ml) dropwise over 15 mins and the mixture was stirred at 65° C. for 30 mins. K2CO3 (198 g) was added over 20 mins and stirred for 16 hrs. Further iodomethane (16.3 ml) was added and stirring continued for 1 hr. The resulting mixture was cooled to 0° C., filtered and washed with THF (50 ml). The filtrate was evaporated to dryness and purified by column chromatography, eluting with EtOAc/Heptane to give the title compound as a red solid.

reactant | 2-(2-Fluorophenyl)-1,5-dimethyl-1H-pyrazol-3(2H)-one | FC1=C(C=CC=C1)N1N(C(=CC1=O)C)C | C11H11FN2O
reactant | 2-(2-fluorophenyl)-5-methyl-1H-pyrazol-3(2H)-one | 2602 mmol, 500 g | FC1=C(C=CC=C1)N1NC(=CC1=O)C | C10H9FN2O
reactant | iodomethane | 163 ml | IC | CH3I
reactant | K2CO3 | 198 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 16.3 ml | IC | CH3I
solvent | THF | 2500 ml | C1CCOC1 | C4H8O
product | 4-Amino-2-(2-fluorophenyl)-1,5-dimethyl-1H-pyrazol-3(2H)-one | NC=1C(N(N(C1C)C)C1=C(C=CC=C1)F)=O | C11H12FN3O
